US04956359
3-(3,4-Dichlorophenoxy)-1-(diphenylmethyl)azetidine
A mixture of 48 g (0.2 mole) of 1-diphenylmethyl-3-azetidinol and 22 g (0.22 mole) of triethylamine in 800 ml of toluene was stirred in a water bath while 27.5 g (0.22 mole) of methanesulfonyl chloride was added dropwise and stirring was continued for 18 hr. The reaction mixture was treated with 400 ml of isopropyl ether then filtered. The filter cake was washed with 2×150 ml of 50/50 isopropyl ether and toluene. The combined filtrates were treated with 32.6 g (0.2 mole) of 3,4-dichlorophenol, 100 mg of tetrabutylammonium bromide and 24 g (0.6 mole) of sodium hydroxide in 100 ml of water. This mixture was stirred vigorously at reflux for 16 hr. The basic aqueous portion was separated and the organic portion washed with water, dried over magnesium sulfate then concentrated to a solid residue, 74.5 g. Several recrystallizations from ethanol-water gave a product which was contaminated with starting azetidinol. Therefore, the material, 57.4 g, was dissolved in toluene and treated with silica gel. After stirring for 6 hr, the silica gel was removed by filtration and washed with 50/50 ethyl acetate and toluene. The filtratrs were concentrated to yield 45.9 g (59.7%) of pure product. A sample for elemental analysis was recrystallized from ethanol, m.p. 114°-115° C.

reactant | 1-diphenylmethyl-3-azetidinol | 0.2 mole, 48 g | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | triethylamine | 0.22 mole, 22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mole, 27.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | isopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
reactant | 3,4-dichlorophenol | 0.2 mole, 32.6 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | sodium hydroxide | 0.6 mole, 24 g | [OH-].[Na+]
reactant | azetidinol | N1(CCC1)O | C3H7NO
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 100 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 3-(3,4-Dichlorophenoxy)-1-(diphenylmethyl)azetidine | 45.9 g, 59.7% | ClC=1C=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1Cl | C22H19Cl2NO
